US04308259
(a) 2-(4-Acetoxy-3-methoxyphenyl)-2-sulphoacetyl chloride
A solution of 4-acetoxy-3-methoxyphenylacetyl chloride (2.42 g, 10 mmole) in dichloromethane (20 ml) was treated with a suspension of sulphur trioxide - dioxane complex (15 mmole) dichloroethane at 0° C. This mixture was stirred at room temperature for eighteen hours and evaporated to afford a yellow gum. νmax. (CHCL3) 1800, 1748 cm-1.

reactant | 4-acetoxy-3-methoxyphenylacetyl chloride | 10 mmole, 2.42 g | C(C)(=O)OC1=C(C=C(C=C1)CC(=O)Cl)OC | C11H11ClO4
reactant | sulphur trioxide dioxane | 15 mmole | S(=O)(=O)=O.O1CCOCC1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(4-Acetoxy-3-methoxyphenyl)-2-sulphoacetyl chloride | C(C)(=O)OC1=C(C=C(C=C1)C(C(=O)Cl)S(=O)(=O)O)OC | C11H11ClO7S
